US04808589
Methyl 3-(2-guanidino-4-thiazolylmethylthio)propionimidate (4.09 g), ammonium chloride (0.8 g) and ethanol (25 ml) were stirred at room temperature for 5 hours. The methanol was evaporated at reduced pressure and the residue was chromatographed on silica gel using a chloroform/methanol gradient elution. Fractions containing the main product (as shown by T.L.C.) were combined and the solvent evaporated at reduced pressure. The residue was treated with ethanol containing hydrochloric acid. Excess of solvent was evaporated at reduced pressure and the residue was crystallised from isopropanol to give 3-(2-guanidino-4-thiazolylmethylthio)propionamidine dihydrochloride, (1.63 g) m.p. 174.5°-176.5° C.

reactant | Methyl 3-(2-guanidino-4-thiazolylmethylthio)propionimidate | 4.09 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
reactant | ammonium chloride | 0.8 g | [Cl-].[NH4+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(2-guanidino-4-thiazolylmethylthio)propionamidine dihydrochloride | 1.63 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCC(=N)N | InChI=1S/C8H14N6S2.2ClH/c9-6(10)1-2-15-3-5-4-16-8(13-5)14-7(11)12;;/h4H,1-3H2,(H3,9,10)(H4,11,12,13,14);2*1H
